US07396844B1
Synthesis of benzyl 2-(2R)-t-butoxycarbonylamino-5-(3-cyanophenoxy)pentanoate
6.77 g (21 mmol) of benzyl 2-(2R)-t-butoxycarbonylamino-5-hydroxypentanoate was dissolved in 105 ml of tetrahydrofuran. 2.74 g (23 mmol) of 3-cyanophenol, 6.6 g (25 mmol) of triphenylphosphine and 10 g (23 mmol) of diethyl azodicarboxylate (40% solution in toluene) were added to the solution, and they were stirred at room temperature for one hour. The solvent was distilled off, and the residue was treated with ethyl acetate as the extractant in an ordinary manner. The solvent was distilled off, and the residue was purified by the silica gel column chromatography to obtain the title compound.

reactant | benzyl 2-(2R)-t-butoxycarbonylamino-5-hydroxypentanoate | 21 mmol, 6.77 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OCC1=CC=CC=C1)CCCO | C17H25NO5
reactant | 3-cyanophenol | 23 mmol, 2.74 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | triphenylphosphine | 25 mmol, 6.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 23 mmol, 10 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 105 ml | O1CCCC1 | C4H8O
product | benzyl 2-(2R)-t-butoxycarbonylamino-5-(3-cyanophenoxy)pentanoate | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OCC1=CC=CC=C1)CCCOC1=CC(=CC=C1)C#N | C24H28N2O5
